US07579488B2
Preparation of [(2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-5-carbonyl)-amino]-acetic acid
A solution of [(2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethylpropyl}-benzofuran-5-carbonyl)-amino]-acetic acid (74 mg, 0.150 mmol) in THF (5.0 mL) at RT is treated with NaBH4 (11 mg, 0.300 mmol). The resulting mixture is stirred for 4 hour. The reaction is quenched with HCl (1.0 N, 1.0 mL) and extracted with EtOAc (2×20 mL). The organic layer is dried over Na2SO4, concentrated to afford the title compound (65 mg, 88%).

reactant | [(2-{1-[4-(3,3-dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethylpropyl}-benzofuran-5-carbonyl)-amino]-acetic acid | 0.150 mmol, 74 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(C1)C=C(C=C2)C(=O)NCC(=O)O)C)=O)(C)C | C29H35NO6
reactant | NaBH4 | 0.300 mmol, 11 mg | [BH4-].[Na+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
product | [(2-{1-Ethyl-1-[4-(2-hydroxy-3,3-dimethyl-butoxy)-3-methyl-phenyl]-propyl}-benzofuran-5-carbonyl)-amino]-acetic acid | 65 mg, 88% | C(C)C(CC)(C1=CC(=C(C=C1)OCC(C(C)(C)C)O)C)C=1OC2=C(C1)C=C(C=C2)C(=O)NCC(=O)O | C29H37NO6
